US09119868B2
Step 1: 6-(N-(4-(benzyloxy)-3-fluorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropyl-N-methylbenzofuran-3-carboxamide
A mixture of 2-(4-chlorophenyl)-5-cyclopropyl-N-methyl-6-(methylsulfonamido)benzofuran-3-carboxamide (2.0 g, 4.77 mmol), (4-(benzyloxy)-3-fluorophenyl)boronic acid (1.762 g, 7.16 mmol), Cu(OAc)2(1.301 g, 7.16 mmol), triethylamine (3.33 mL, 23.87 mmol) and powdered 3 Å molecular sieves (2 g) in CH2Cl2 (60 mL) was stirred in a flask open to the air and equipped with a drying tube. After 12 hours the mixture was treated with additional (4-(benzyloxy)-3-fluorophenyl)boronic acid (1.762 g, 7.16 mmol) and Cu(OAc)2(1.301 g, 7.16 mmol) and stirred at room temperature for 4 d. The mixture was diluted with CH2Cl2, filtered through Celite and the dark brown filtrate was concentrated to dryness. The crude material was purified by flash chromatography on silica gel (0-4% EtOAc/CH2Cl2) to afford the desired compound which was further purified by flash chromatography on silica gel eluted (0-40% EtOAc/hexane) to give the desired compound as a light-tan solid (406 mg, 14%). LCMS (m/z, ES+)=619 (M+H+).

reactant | 2-(4-chlorophenyl)-5-cyclopropyl-N-methyl-6-(methylsulfonamido)benzofuran-3-carboxamide | 4.77 mmol, 2.0 g | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)NS(=O)(=O)C)C2CC2 | C20H19ClN2O4S
reactant | (4-(benzyloxy)-3-fluorophenyl)boronic acid | 7.16 mmol, 1.762 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)B(O)O)F | C13H12BFO3
reactant | triethylamine | 23.87 mmol, 3.33 mL | C(C)N(CC)CC | C6H15N
reactant | (4-(benzyloxy)-3-fluorophenyl)boronic acid | 7.16 mmol, 1.762 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)B(O)O)F | C13H12BFO3
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 7.16 mmol, 1.301 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
catalyst | Cu(OAc)2 | 7.16 mmol, 1.301 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 6-(N-(4-(benzyloxy)-3-fluorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropyl-N-methylbenzofuran-3-carboxamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)NC)C=C1C1CC1)F | C33H28ClFN2O5S
